US07241791B2
4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenyl phenyl hydrogen phosphate
A solution of 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenol (0.30 g, 1.0 mmol), phenyl dichlorophosphate (0.211 mL, 1.1 mmol), and lithiumhexamethyidisilazide (0.183 g, 1.1 mmol) in 10 mL of THF was stirred for 1 hour at ambient temperature. The reaction mixture was quenched with H2O and concentrated in vacuo. The residues were purified by reversed phase HPLC (Column: HS Hyperprep C18 8 u ID 22 mm; solvent gradient 40% to 100% acetonitrile (0.1% TFA) in H2O; flowrate 10 mL/min) to give 0.120 g of the title compound as an oil.

reactant | 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenol | 1.0 mmol, 0.30 g | C1(CCCC1)N1N=C(C2=CC=CC(=C12)F)C1=CC=C(C=C1)O | C18H17FN2O
reactant | phenyl dichlorophosphate | 1.1 mmol, 0.211 mL | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
reactant | lithiumhexamethyidisilazide | 1.1 mmol, 0.183 g | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenyl phenyl hydrogen phosphate | 0.120 g | P(=O)(OC1=CC=C(C=C1)C1=NN(C2=C(C=CC=C12)F)C1CCCC1)(OC1=CC=CC=C1)O | C24H22FN2O4P
